US07618990B2
This compound was prepared in the same manner as described in step 3 of Example 81. 4-(2-bromoacetyl)benzonitrile (1.7 g, 7.4 mmol) and N-(2-hydroxy-1,1-dimethylethyl)thiourea (1.1 g, 7.4 mmol), prepared in step 2 of Example 52, were heated to reflux in 45 mL of ethanol for 30 min. The reaction mixture was cooled to room temperature and the crude product was collected by suction filtration to give 4-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}benzonitrile (2.0 g, 100%), MS (ES) m/z 274 [M+H]+. No further purification was performed on this compound.

reactant | 4-(2-bromoacetyl)benzonitrile | 7.4 mmol, 1.7 g | BrCC(=O)C1=CC=C(C#N)C=C1 | C9H6BrNO
reactant | N-(2-hydroxy-1,1-dimethylethyl)thiourea | 7.4 mmol, 1.1 g | OCC(C)(C)NC(=S)N | C5H12N2OS
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | 4-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}benzonitrile | 2.0 g, 100% | OCC(C)(C)NC=1SC=C(N1)C1=CC=C(C#N)C=C1 | C14H15N3OS
